US07595327B2
To a solution of racemic (1S,2R)-2-methyl-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclohexanecarboxylate (0.075 g) in DMF (0.8 mL) was added BOP (0.1 g, 1.3 eq), diisopropylethylamine (0.122 mL, 4 eq) and hydroxylamine hydrochloride (0.024 g, 2 eq). The reaction was stirred for 8 h and purified by direct injection onto an HPLC to afford racemic (1S,2R)-N-hydroxy-2-methyl -2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclohexanecarboxamide (0.03 g, 40%) as a white powder. MS: 484.1 (M+H)+

reactant | racemic (1S,2R)-2-methyl-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclohexanecarboxylate | 0.075 g | CC1(C(CCCC1)C(=O)[O-])NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C
reactant | BOP | 0.1 g, 1.3 eq | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diisopropylethylamine | 0.122 mL, 4 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydroxylamine hydrochloride | 0.024 g, 2 eq | Cl.NO
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
product | racemic (1S,2R)-N-hydroxy-2-methyl -2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclohexanecarboxamide | 0.03 g, 40% | ONC(=O)C1C(CCCC1)(NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C | C25H29N3O5S
